US09169198B2
The above-described method (Example 1) was repeated to react 2-ethylhexyl 2-amino-3-methylbenzoate (3.00 g, 10.6 mmol) with hydrogen bromide (2.33 g, 13 8 mmol, 48% in water) and hydrogen peroxide (1.81 g, 15.9 mmol, 30% in water). Following working up similar to Example 1 and additional column chromatography, 2-ethylhexyl 2-amino-5-bromo-3-methylbenzoate (2.7 g, 74.0% of theory, >99 area % LC) was obtained as a brown oil.

reactant | 2-ethylhexyl 2-amino-3-methylbenzoate | 10.6 mmol, 3.00 g | NC1=C(C(=O)OCC(CCCC)CC)C=CC=C1C | C16H25NO2
reactant | hydrogen bromide | 8 mmol, 2.33 g | Br | BrH
reactant | hydrogen peroxide | 15.9 mmol, 1.81 g | OO | H2O2
product | 2-ethylhexyl 2-amino-5-bromo-3-methylbenzoate | 2.7 g, 74.0% | NC1=C(C(=O)OCC(CCCC)CC)C=C(C=C1C)Br | C16H24BrNO2
